US09315490B2
2a) 4-Fluoro-3-(2-(3-(methylthio)-6-(morpholine-4-carbonyl)-1H-indol-1-yl)pyrimidin-5-yl)benzonitrile
Synthesized according to general procedure 1 from (1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)methanone (1.0 g, 2.309 mmol, 1.0 eq) and (5-cyano-2-fluorophenyl)boronic acid (0.451 g, 2.77 mmol, 1.2 eq). Yield: 0.4 g (36% of theory)

reactant | (1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)methanone | 2.309 mmol, 1.0 g, 1.0 eq | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)SC | C18H17BrN4O2S
reactant | (5-cyano-2-fluorophenyl)boronic acid | 2.77 mmol, 0.451 g, 1.2 eq | C(#N)C=1C=CC(=C(C1)B(O)O)F | C7H5BFNO2
product | 4-Fluoro-3-(2-(3-(methylthio)-6-(morpholine-4-carbonyl)-1H-indol-1-yl)pyrimidin-5-yl)benzonitrile | FC1=C(C=C(C#N)C=C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)SC | C25H20FN5O2S
